Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Intracranial Hemorrhage
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ woman w/ PMH HTN, atrial 
fibrillation who presented after being found unresponsive by her 
husband, was found to have massive intracranial hemorrhage, and 
was admitted for comfort measures only care.

Per the patient's family, the patient noted increasing 
lightheadedness this morning. After several hours, the patient's 
husband found her unresponsive on the couch and called EMS. The 
patient was brought to ___. There, she was 
noted to be unresponsive with minimal gag reflex. As a result, 
she was intubated for airway protection. Non-contrast head CT 
was performed and demonstrated right basal ganglia hemorrhage 
along with intraventricular hemorrhage extending into all four 
ventricles. She was transferred to ___ ED for further 
evaluation.

On arrival to ___, patient was afebrile, HR 63, BP 122/83, RR 
12, satting 99%. She remained unresponsive. Both neurology and 
neurosurgery were consulted in the ER. Given the extent of the 
hemorrhage and the patient's age, both services felt that the 
patient would have a low likelihood of survival. In discussion 
with the patient's husband, it was decided to make the patient 
CMO. She was extubated in the ER prior to transfer and 
demonstrated spontaneous respirations. 

Upon arrival to the floor, the patient's family confirmed the 
above history. She was noted to be snoring spontaneously and was 
not responsive to verbal stimuli. 
 
REVIEW OF SYSTEMS: 
Deferred as patient CMO

 
Past Medical History:
HTN
Atrial fibrillation
Overactive bladder
Hernia repair
ovarian cyst
 
Social History:
___
Family History:
___ 
 
Physical Exam:
ADMISSION PHYSICAL
==================
Patient appeared to be resting comfortably. Was not arousable to 
verbal stimuli. No spontaneous movements. Patient snoring 
spontaneously. Rest of exam deferred as CMO. 

DISCHARGE PHYSICAL
==================
N/A, Expired
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:44PM BLOOD WBC-12.3* RBC-3.92 Hgb-12.5 Hct-35.8 
MCV-91 MCH-31.9 MCHC-34.9 RDW-13.4 RDWSD-44.5 Plt ___
___ 02:44PM BLOOD Neuts-84.0* Lymphs-7.7* Monos-7.1 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-10.30* AbsLymp-0.94* 
AbsMono-0.87* AbsEos-0.01* AbsBaso-0.06
___ 02:44PM BLOOD ___ PTT-25.4 ___
___ 02:44PM BLOOD Glucose-168* UreaN-10 Creat-0.6 Na-143 
K-3.4* Cl-101 HCO3-23 AnGap-19*
___ 02:44PM BLOOD Calcium-9.6 Phos-2.3* Mg-1.5*
___ 02:54PM BLOOD ___ pO2-60* pCO2-34* pH-7.52* 
calTCO2-29 Base XS-4
___ 02:53PM URINE Color-Straw Appear-Clear Sp ___
___ 02:53PM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-TR* Ketone-80* Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 02:53PM URINE RBC-3* WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 02:53PM URINE Mucous-RARE*

MICRO
=====
Urine Culture ___ - Pending

STUDIES
=======
CTA Head Neck
CT head demonstrates a large intraparenchymal basal ganglia 
hemorrhage 
extending to the lateral ventricles and producing hydrocephalus. 
 CT 
angiography of the neck demonstrate no vascular occlusion or 
stenosis.  CT 
angiography of the head demonstrates a CTA spot sign indicating 
active 
extravasation of the contrast within the hemorrhage.  
Approximately 7 mm 
pericallosal artery aneurysm which appears bilobed but no 
surrounding 
subarachnoid hemorrhage is seen and appears to be unrelated to 
the hemorrhage in the right basal ganglia. 

DISCHARGE LABS
==============
N/A
 
Brief Hospital Course:
Mrs. ___ is a ___ woman w/ PMH HTN, atrial 
fibrillation who presented after being found unresponsive by her 
husband, was found to have massive intracranial hemorrhage, and 
was admitted on ___ for comfort measures only care.

Death Note ___
MD called to the bedside by Ms. ___ RN at approximately 
2300. Ms. ___ was made CMO earlier in the day after discussion 
with her family. 

On exam the patient had no spontaneous movements. There was no 
response to verbal or tactile stimuli. Her pupils were dilated 
and fixed. No breath sounds were appreciated over either lung 
field. No carotid pulses were palpable. No heart sounds were 
auscultated over the precordium. 

Ms. ___ was pronounced dead at ___ at 23:10. Her family was 
at the bedside and declined an autopsy. The medical examiner was 
notified and waived the case. The attending of record ___ 
___, MD was notified. The patient's PCP ___, MD 
was notified via ___. 

A moment was taken to honor the life of Ms. ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 6.25 mg PO BID 
2. Valsartan 320 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Oxybutynin 5 mg PO BID 
5. Apixaban 2.5 mg PO BID 
6. Digoxin 0.25 mg PO BID 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___